US20010056090A1
Synthesis of 3(R)-(2-Nitro-phenylamino)-piperidine-1-carboxylic Acid Tert-Butyl Ester
A mixture of 3(R)-amino-piperidine-1-carboxylic acid tert-butyl ester (137 mg, 0.69 mmol) and 2-nitrofluorobenzene (102 mg, 0.72 mmol), K2CO3 (100 mg) was heated at 110° C. for 12 hr. The mixture was diluted with CH2Cl2, filtered and concentrated. The residue was purified by chromatography (5% EtOAc in hexane) to give a yellow oil (134 mg, 61%).1H-NMR (300 MHz, CDCl3) δ 8.20 (d, J=8.55 Hz, 1H, NH), 8.10 (d, J=7.20 Hz, 1H), 7.48 (t, 1H), 7.01 (d, J=8.30 Hz, 1H), 6.70 (t, 1H), 4.00 (broad, 1H), 3.75 (m, 1H), 3.60 (m, 1H), 3.20 (m, 2H), 2.10 (m, 1H), 1.82-1.60 (m, 3H), 1.43 (s, 9H) ppm; IR (film) 3357, 2967, 2935, 2858, 1692, 1620, 1572, 15508, 1423, 1372, 1266, 1230, 1154 cm−1; LRMS (calculated for C,6H23N2O4) 321, found 321.

reactant | 3(R)-amino-piperidine-1-carboxylic acid tert-butyl ester | 0.69 mmol, 137 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)N | C10H20N2O2
reactant | 2-nitrofluorobenzene | 0.72 mmol, 102 mg | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3(R)-(2-Nitro-phenylamino)-piperidine-1-carboxylic Acid Tert-Butyl Ester | 134 mg, 61% | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C16H23N3O4
